US05223619
Preparation of 5-(N'-benzoylthiocarbamoyl)amino-1-methyl-1H-imidazole-4-carboxamide
5-Amino-1-methyl-1H-imidazole-4-carboxamide (6.5 g, 45 mM) and benzoylisothiocyanate (7.7 g, 47 mM) were refluxed in acetone (90 ml) for 4 hours under N2. After cooling in an ice bath the formed product was filtered off, washed with acetone and dried. Hereby was isolated 13.0 g (95%) of the title compound as a white powder, mp 194°-196° C.

reactant | 5-Amino-1-methyl-1H-imidazole-4-carboxamide | 45 mM, 6.5 g | NC1=C(N=CN1C)C(=O)N | C5H8N4O
reactant | benzoylisothiocyanate | 47 mM, 7.7 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 5-(N'-benzoylthiocarbamoyl)amino-1-methyl-1H-imidazole-4-carboxamide | 13.0 g, 95% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(N=CN1C)C(=O)N | C13H13N5O2S
